US04234585
4-Methyl-6-hydroxy-2-oxo-1,2dihydroquinoline is reacted with 3-[4-(4-methylbenzyl)-piperazin-1-yl]-propyl chloride in a manner analogous to that described in Example 5. There is obtained 4-methyl-6-{3-[4-(4-methylbenzyl)-piperazin-1-yl]-propoxy}-2-oxo-1,2-dihydroquinoline which, after recrystallization from diethyl ether, melts at 162°-163° C.

reactant | 4-Methyl-6-hydroxy-2-oxo-1,2dihydroquinoline | CC1=CC(NC2=CC=C(C=C12)O)=O | C10H9NO2
reactant | 3-[4-(4-methylbenzyl)-piperazin-1-yl]-propyl chloride | CC1=CC=C(CN2CCN(CC2)CCCCl)C=C1 | C15H23ClN2
product | 4-methyl-6-{3-[4-(4-methylbenzyl)-piperazin-1-yl]-propoxy}-2-oxo-1,2-dihydroquinoline | CC1=CC(NC2=CC=C(C=C12)OCCCN1CCN(CC1)CC1=CC=C(C=C1)C)=O | C25H31N3O2
